data/mechanism_extracts/OrgChemFront/10.1039_d3qo00290j_si.json
{"doi": "10.1039_d3qo00290j_si", "journal": "OrgChemFront", "is_review": false, "rxn_class_summary": "Photoelectrochemical radical trifluoromethylation/cyclization of N-allylated 2-arylbenzimidazoles with CF3SO2Na to afford CF3-substituted benzimidazo-fused products", "mechanism_family": ["photoredox_combined", "radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation (C cloth anode, 1.5 mA) coupled with eosin Y photocatalysis under 455 nm to generate CF3 radical from CF3SO2Na; photoexcited eosin Y oxidizes CF3SO2- to CF3• (with SO2 extrusion), and the anode regenerates the ground-state photocatalyst", "key_intermediates": [{"name": "CF3 radical from CF3SO2Na (Langlois reagent) after SO2 loss", "smiles": "[CH0](F)(F)F", "role": "reactive"}, {"name": "C-centered alkyl radical from CF3 addition to the allyl alkene of 1a", "smiles": null, "role": "reactive"}, {"name": "Cyclized cationic intermediate (radical-polar crossover; aryl-stabilized carbocation/Wheland-type)", "smiles": null, "role": "transient"}, {"name": "Benzimidazo-fused product 3a bearing CH2CF3", "smiles": null, "role": "reactive"}, {"name": "(3,3,3-trifluoroprop-1-ene-1,1-diyl)dibenzene 18 (DPE-CF3 adduct)", "smiles": "FC(F)(F)C=C(c1ccccc1)c1ccccc1", "role": "off_pathway"}], "electron_flow": "Photoexcited eosin Y oxidizes CF3SO2- to CF3• (releasing SO2); CF3• adds to the terminal alkene of 1a giving a C-radical, which cyclizes onto the pendant arene. The resulting cyclohexadienyl radical is oxidized (anode and/or eosin Y•+) to a cation, and deprotonation rearomatizes to product 3a; the anode regenerates eosin Y.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "0% yield of 3a; reaction fully suppressed"}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Trace 3a; reaction suppressed"}, {"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Trace 3a; CF3-DPE adduct 18 isolated in 36%, confirming CF3 radical"}, {"name": "p-dinitrobenzene (pDNB)", "smiles": "O=[N+]([O-])c1ccc(cc1)[N+](=O)[O-]", "purpose": "redox_probe", "observation": "0% yield; SET pathway suppressed"}, {"name": "CuCl2", "smiles": "[Cu](Cl)Cl", "purpose": "redox_probe", "observation": "Trace 3a; single-electron pathway implicated"}, {"name": "CCl4", "smiles": "ClC(Cl)(Cl)Cl", "purpose": "redox_probe", "observation": "Trace 3a; consistent with SET intermediate"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "on/off_light_or_current", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Reaction profiles compare std conditions vs 'no PC, no light' and 'no electricity', supporting that both photocatalysis and electrolysis are required (synergistic photoelectrocatalysis). DPE trapping experiment isolates CF3-DPE adduct 18 (36%), providing direct evidence for a CF3 radical intermediate. Radical-polar crossover (oxidation of cyclohexadienyl radical to cation followed by rearomatization) is invoked for the cyclization step."}
